US20010023249A1
Step 5: Preparation of [4-(4-Fluorobenzyloxy)-phenyl]-(3-methyl-butyl)-piperidin-4-yl-amine (Ig)
4-{[4-(4-fluorobenzyloxy)-phenyl]-(3-methyl-butyl)-amino}-piperidine-1-carboxylic acid tert-butyl ester (If, 1.80 g, 3.82 mmol) was dissolved in CH2Cl2 (12 mL), treated with TFA (12 mL), and stirred for 20 minutes. The reaction was concentrated and placed under vacuum for 20 minutes, then diluted with EtOAc (200 mL), washed twice with saturated sodium bicarbonate solution and once with brine, dried over Na2SO4, and concentrated to give 0.89 g (74%) of the desired product.

reactant | 4-{[4-(4-fluorobenzyloxy)-phenyl]-(3-methyl-butyl)-amino}-piperidine-1-carboxylic acid tert-butyl ester | 3.82 mmol, 1.80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCC(C)C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C28H39FN2O3
reactant | TFA | 12 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | [4-(4-Fluorobenzyloxy)-phenyl]-(3-methyl-butyl)-piperidin-4-yl-amine | 0.89 g, 74% | FC1=CC=C(COC2=CC=C(C=C2)N(C2CCNCC2)CCC(C)C)C=C1 | C23H31FN2O
